US09226916B2
b) rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester
To a solution of rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone (50 mg, 0.11 mmol) in dichloromethane (1 mL) were added N,N-diisopropyl ethyl amine (29 μl, 0.17 mmol), 4-fluorophenyl chloroformate (19 μl, 0.15 mmol) and the resulting mixture was stirred for 18 h at ambient temperature. It was diluted with EtOAc (15 mL) and washed with an aqueous solution of sodium carbonate (1M, 10 mL). The aqueous layers were extracted with dichloromethane (30 mL), dried over sodium sulfate and concentrated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 90:10) afforded the title compound (45 mg, 68%) as a light brown oil. MS m/e: 576.3 [M+H]+.

reactant | rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | 0.11 mmol, 50 mg | ClC=1C=C(C=CC1Cl)[C@H]1CN(C[C@@H]1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | N,N-diisopropyl ethyl amine | 0.17 mmol, 29 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-fluorophenyl chloroformate | 0.15 mmol, 19 μl | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester | 45 mg, 68% | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)=O | C29H32Cl2FN3O4
